US06569854B1
The procedure is carried out in a manner similar to that described in Example 60, but starting with 1.80 g of (16R)-16-deoxo-16-fluoropristinamycin IIB (prepared as described in Example 1), 1.20 g of 1-(4-morpholin-4-ylbutyryl)piperidine-4-carboxylic acid, 0.24 g of 4-dimethylaminopyridine, 30 cm3 of dimethylformamide, and 0.82 g of N,N′-dicyclohexylcarbodiimide. After treatment, the crude product is purified by flash chromatography [eluent: dichloromethane/methanol (97/3 by volume)] and then by two chromatographies on a CBT1 alumina column [eluent: respectively ethyl acetate/methanol (98/2 by volume) and acetonitrile/diisopropyl ether (50/50 by volume)] to give 0.12 g of (16R)-16-deoxo-16-fluoro-14-O-[1-(4-morpholin-4-ylbutyryl)piperidine-4-carbonyl]pristinamycin IIB, in the form of a white solid.

reactant | 1-(4-morpholin-4-ylbutyryl)piperidine-4-carboxylic acid | 1.20 g | N1(CCOCC1)CCCC(=O)N1CCC(CC1)C(=O)O | C14H24N2O4
reactant | N,N′-dicyclohexylcarbodiimide | 0.82 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylformamide | 30 cm3 | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.24 g | CN(C1=CC=NC=C1)C | C7H10N2
product | acetonitrile diisopropyl ether | C(C)#N.C(C)(C)OC(C)C | InChI=1S/C6H14O.C2H3N/c1-5(2)7-6(3)4;1-2-3/h5-6H,1-4H3;1H3
